US04970219
N-(4-Amino-3-pyridinyl)-1H-indol-5-amine
A mixture of N-(4-nitro-3-pyridinyl)-1H-indol-5-amine, N5 -oxide (7.8 g) in 500 ml ethanol containing platinum oxide (1.25 g) was hydrogenated at 50 psi for six hours and thereafter filtered and concentrated. The product was purified by flash chromatography (silica, 20% methanol in dichloromethane) to give 6 g solid, m.p. 83°-90°. Three grams were distilled twice via Kugelrohr (240°-250° @ 0.01 mm Hg) to give 2.4 g solid, 138°-140°.

reactant | N-(4-nitro-3-pyridinyl)-1H-indol-5-amine | [N+](=O)([O-])C1=C(C=NC=C1)NC=1C=C2C=CNC2=CC1 | C13H10N4O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | platinum oxide | 1.25 g | [Pt]=O
product | N-(4-Amino-3-pyridinyl)-1H-indol-5-amine | 6 g | NC1=C(C=NC=C1)NC=1C=C2C=CNC2=CC1 | C13H12N4
